US04871852
In 5 ml of methylene chloride were dissolved 850 mg of ethyl 3-ethoxy-2-(2,3,4,5-tetrafluorobenzoyl)acrylate and 700 mg of 1-amino-2-fluorocyclopropane trifluoroacetate. After addition of 1 ml of triethylamine, the mixture was stirred at room temperature for 1 hour. The solvent was removed by distillation, and the residue was purified by column chromatography using 40 g of silica gel. From the chloroform eluate 450 mg of ethyl 3-(2-fluorocyclopropyl)amino-2-(2,3,4,5-tetrafluorobenzyl)acrylate was obtained.

reactant | ethyl 3-ethoxy-2-(2,3,4,5-tetrafluorobenzoyl)acrylate | 850 mg | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C14H12F4O4
reactant | 1-amino-2-fluorocyclopropane trifluoroacetate | 700 mg | FC(C(=O)O)(F)F.NC1C(C1)F
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-(2-fluorocyclopropyl)amino-2-(2,3,4,5-tetrafluorobenzyl)acrylate | FC1C(C1)NC=C(C(=O)OCC)CC1=C(C(=C(C(=C1)F)F)F)F | C15H14F5NO2
